US08623855B2
To a 500 ml flask were added 45.6 grams (0.374 mol) 4-hydroxylbenzaldehyde, 150 ml of acetone and 25.8 grams (0.187 mol) potassium carbonate. Then, 52.1 ml (0.449 mol) of benzoyl chloride (BzCl) was added therein dropwise slowly at a temperature of about 0° C. After the addition, the mixture was warmed up to room temperature and the reaction lasted 2 hours. The residue was extracted 3 times with ethyl acetate (150 ml×3). The organic phases were combined, dried over anhydrous sodium sulfate and concentrated till dry to obtain 76.08 grams (0.336 mol) 4-benzoyloxybenzaldehyde. Next, 35.7 ml (0.37 mol) of 4-fluoroaniline was added dropwise to a solution of the obtained 4-benzoyloxybenzaldehyde in 300 ml of ethyl acetate. The reaction lasted 1 hours. The reaction mixture was filtered. The obtained solid was recrystallized from anhydrous ethanol to obtain 60.3 grams (0.189 mol) white solid, namely compound II-1. 1H NMR (400 MHz, CDCl3): δ 7.09-7.14 (m, 2H, Cpr-H), 7.23-7.28 (m, 2H, Cpr-H), 7.37-7.39 (m, 2H, Cpr-H), 7.54-7.59 (m, 2H, Cpr-H), 7.67-7.71 (m, 1H, Cpr-H), 7.99-8.02 (m, 2H, Cpr-H), 8.24-8.26 (m, 2H, Cpr-H), 8.49 (s, 1H, —CH—).

reactant | 4-hydroxylbenzaldehyde | 0.374 mol, 45.6 grams | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.187 mol, 25.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.449 mol, 52.1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-benzoyloxybenzaldehyde | 0.336 mol, 76.08 grams | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=O)C=C1 | C14H10O3
